US07442839B2
ii) 1-{4-[(6-Bromohexyl)oxy]butyl}-3-(cyclopentylsulfonyl)benzene
To an evacuated flask, containing palladium on carbon [50% water by weight] (43 mg) was added a solution of 1{4-[(6-bromohexyl)oxy]-1-butyn-1-yl}-3-(cyclopentylsulfonyl) benzene (304 mg) in EtOAc (10 ml). The mixture was hydrogenated for 19 h. The catalyst was filtered off and the filtrate was concentrated in vacuo to afford title compound. LCMS RT=3.92 min

reactant | 1{4-[(6-bromohexyl)oxy]-1-butyn-1-yl}-3-(cyclopentylsulfonyl) benzene | 304 mg | BrCCCCCCOCCC#CC1=CC(=CC=C1)S(=O)(=O)C1CCCC1 | C21H29BrO3S
catalyst | palladium on carbon | 43 mg | [Pd] | Pd
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 1-{4-[(6-Bromohexyl)oxy]butyl}-3-(cyclopentylsulfonyl)benzene | BrCCCCCCOCCCCC1=CC(=CC=C1)S(=O)(=O)C1CCCC1 | C21H33BrO3S
